US09284333B2
To a mixture of 4-formyl-morpholine-3-carboxylic acid (Comp. No. 1) (43 g, 0.295 mol) and acetic anhydride (410 g, 4 mol) was added ethyl propiolate (190 g, 1.94 mol). The resulting mixture was heated slowly to 120° C., which was accompanied by gas evolution. After heating for 2 h at 120° C., the resulting mixture was concentrated under reduced pressure. The crude product was purified by silica gel chromatography (eluting with up to 25% ethyl acetate in heptane) to give 21.4 g (37%) of pure 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester. LC/MS (method 4): Rt=1.10 min; m/z=196.1 (M+H+).

reactant | 4-formyl-morpholine-3-carboxylic acid | C(=O)N1C(COCC1)C(=O)O | C6H9NO4
reactant | acetic anhydride | 4 mol, 410 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | ethyl propiolate | 1.94 mol, 190 g | C(C#C)(=O)OCC | C5H6O2
product | 3,4-dihydro-1H-pyrrolo[2,1-c][1,4]oxazine-8-carboxylic acid ethyl ester | 21.4 g, 37% | C(C)OC(=O)C=1C=CN2C1COCC2 | C10H13NO3
